US06184388B2
5-Amino-7-[trans-4-(1-aminocyclopropyl)-3-hydroxymethyl-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
Trans-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-hydroxymethylpyrrolidine (1.10 g, 3.18 mmol) was dissolved in ethanol (50 ml), and the solution was mixed with palladium hydroxide (500 mg) and stirred for 1.5 hours at room temperature under a hydrogen atmosphere. The reaction suspension was subjected to celite filtration (ethanol washing) and the solvent was evaporated. The resulting residue and 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid (471 mg, 1.60 mmol) were dissolved in dimethyl sulfoxide (20 ml) and, under a nitrogen atmosphere, the solution was mixed with triethylamine (5 ml) and stirred at 150° C. for 19 hours. After evaporating the solvent, the resulting residue was mixed with 10% citric acid aqueous solution (50 ml) and extracted with chloroform (50 ml×2), and the extract was dried over anhydrous sodium sulfate. After evaporating the solvent, the resulting residue was mixed with concentrated hydrochloric acid (5 ml) and stirred for 1 hour. This was mixed with water (50 ml) and washed with chloroform (50 ml×2). The aqueous layer was adjusted to pH 12.00 with a sodium hydroxide aqueous solution and washed with chloroform (50 ml×2). Finally, the aqueous layer was adjusted to pH 7.40 with 1 N hydrochloric acid and extracted with chloroform (300 ml×5). The extract was dried over anhydrous sodium sulfate, the solvent was evaporated and then the resulting residue was recrystallized from ethanol to obtain 165 mg (38%) of the title compound.

reactant | Trans-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-hydroxymethylpyrrolidine | 3.18 mmol, 1.10 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1(CC1)NC(=O)OC(C)(C)C)CO | C20H30N2O3
reactant | 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 1.60 mmol, 471 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)C1CC1)C(=O)O)=O | C14H12F2N2O3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
catalyst | palladium hydroxide | 500 mg | [OH-].[Pd+2].[OH-]
product | 5-Amino-7-[trans-4-(1-aminocyclopropyl)-3-hydroxymethyl-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 165 mg, 38% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@@H](C1)C1(CC1)N)CO)C)C1CC1)C(=O)O)=O | C22H27FN4O4
